US07094902B2
Synthesis of 9,9-Dioctyl-9H-fluorene-2-carbonyl Chloride
9,9-Dioctyl-9H-fluorene-2-carboxylic acid (32.36 g, 74.5 mmole) was refluxed in thionyl chloride (93 g, 782 mmole) for 8 hrs. Unreacted thionyl chloride was distilled off and the residue material used without further purification.

reactant | 9,9-Dioctyl-9H-fluorene-2-carboxylic acid | 74.5 mmole, 32.36 g | C(CCCCCCC)C1(C2=CC=CC=C2C=2C=CC(=CC12)C(=O)O)CCCCCCCC | C30H42O2
reactant | thionyl chloride | 782 mmole, 93 g | S(=O)(Cl)Cl | Cl2OS
product | 9,9-Dioctyl-9H-fluorene-2-carbonyl Chloride | C(CCCCCCC)C1(C2=CC=CC=C2C=2C=CC(=CC12)C(=O)Cl)CCCCCCCC | C30H41ClO
